US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide
Using N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.649 mmol), 6-(4-fluorophenyl)-5-methylpyridine-2-carboxylic acid 1-oxide (192.5 mg, 0.779 mmol), N,N-dimethylformamide (2 mL), N,N-diisopropylethylamine (224 μL, 1.30 mmol) and HATU (296 mg, 0.779 mmol) and in the same manner as in Example 58, the title compound (254 mg, 73%) was obtained as a white solid.

reactant | N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.649 mmol, 200 mg | NC1=CC=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1 | C17H16N4O2
reactant | 6-(4-fluorophenyl)-5-methylpyridine-2-carboxylic acid 1-oxide | 0.779 mmol, 192.5 mg | FC1=CC=C(C=C1)C=1C(=CC=C([N+]1[O-])C(=O)O)C | C13H10FNO3
reactant | N,N-diisopropylethylamine | 1.30 mmol, 224 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.779 mmol, 296 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide | 254 mg, 73% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(=O)C=2[N+](=C(C(=CC2)C)C2=CC=C(C=C2)F)[O-])C1 | C30H24FN5O4
